US06673797B1
(1) Preparation of 5-Methanesulfonyl-2-(4-pyridyl)-indole
To a mixture of 1-(4-methanesulfonyl-phenyl)-hydrazine hydrochloride (1.0 g) and polyphosphoric acid (15 g), 4-acetylpyridine (0.47 ml) was added and the mixture was stirred at 150° C. for 1 hour. The reaction solution was poured into a saturated aqueous sodium hydrogencarbonate solution and extracted with chloroform. The organic layer was concentrated under reduced pressure. The resulting residue was washed with n-hexane to obtain 0.9591 g of the desired product as a white solid.

reactant | 1-(4-methanesulfonyl-phenyl)-hydrazine hydrochloride | 1.0 g | Cl.CS(=O)(=O)C1=CC=C(C=C1)NN
reactant | 4-acetylpyridine | 0.47 ml | C(C)(=O)C1=CC=NC=C1 | C7H7NO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | 5-Methanesulfonyl-2-(4-pyridyl)-indole | 0.9591 g | CS(=O)(=O)C=1C=C2C=C(NC2=CC1)C1=CC=NC=C1 | C14H12N2O2S
